US04181677
A 150 ml. portion of ammonia is condensed in a reaction flask and a small piece of sodium is added. The blue color is discharged by the addition of ferric chloride and 3.22 g. of sodium are added. After the color is discharged, 5.75 ml. of acetonitrile in 10 ml. of diethyl ether are added. The reaction is cooled in a dry ice-acetone bath and 16.6 g. of 2,4-dichlorobenzonitrile in 25 ml. of tetrahydrofuran are added dropwise. The ammonia is allowed to evaporate, the solvent is blown off with nitrogen and water is added. The mixture is extracted with methylene chloride. The organic extracts are dried over sodium sulfate and filtered through Magnesol®. The filtrate is evaporated with the addition of hexanes giving β-amino-2,4-dichlorocinnamonitrile as a white crystalline solid.

reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 2,4-dichlorobenzonitrile | ClC1=C(C#N)C=CC(=C1)Cl | C7H3Cl2N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | β-amino-2,4-dichlorocinnamonitrile | NC(=CC#N)C1=C(C=C(C=C1)Cl)Cl | C9H6Cl2N2
